US08242139B2
N-(4-bromo-2-fluorophenyl)-5,7-dimethylbenzo[d]oxazol-2-amine
An ambient solution of 2-amino-4,6-dimethylphenol (0.85 g, 6.2 mmol) and 2-fluoro-4-bromophenyl isothiocyanate (1.44 g, 6.20 mmol) in tetrahydrofuran (20 mL) was stirred for 16 h. The reaction was cooled (0° C.), and LiOH.H2O (0.521 g, 12.41 mmol) was added, followed by the dropwise addition of 30% H2O2 (3.41 mL, 31.0 mmol) over 15 minutes. The reaction was warmed to room temperature and stirred for 16 h. The reaction was then quenched by the addition of 20% aqueous sodium sulfite solution (50 mL) and ethyl acetate (75 mL). The layers were separated, and the aqueous was extracted with additional ethyl acetate (2×75 mL). The combined organics were, dried with anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by chromatography on SiO2 gel, eluting with 25% ethyl acetate in hexane, to give the title compound. MS (ESI) m/z 335[M+H]+.

reactant | 2-amino-4,6-dimethylphenol | 6.2 mmol, 0.85 g | NC1=C(C(=CC(=C1)C)C)O | C8H11NO
reactant | 2-fluoro-4-bromophenyl isothiocyanate | 6.20 mmol, 1.44 g | FC1=C(C=CC(=C1)Br)N=C=S | C7H3BrFNS
reactant | LiOH.H2O | 12.41 mmol, 0.521 g | O[Li].O
reactant | H2O2 | 31.0 mmol, 3.41 mL | OO | H2O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(4-bromo-2-fluorophenyl)-5,7-dimethylbenzo[d]oxazol-2-amine | BrC1=CC(=C(C=C1)NC=1OC2=C(N1)C=C(C=C2C)C)F | C15H12BrFN2O
